data/oMe_Silver.jsonl
{"reaction_id": "NR-105_1-C(C)(C)C_2-OCC_3-c2ccc(OC)cc2_4-F_5-C(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(F)c(c2ccc(OC)cc2)c(OCC)c(C(C)(C)C)c1)\\C(=O)OC(C)C"],"products_smiles": ["c1c(C(=O)OC(C)C)[nH]c2c1c(F)c(c2ccc(OC)cc2)c(OCC)c2C(C)(C)C"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(F)c(c2ccc(OC)cc2)c(OCC)c(C(C)(C)C)c1)\\C(=O)OC(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2F)c2ccc(OC)cc2)OCC)C(C)(C)C","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)C)[nH]c2c1c(F)c(c2ccc(OC)cc2)c(OCC)c2C(C)(C)C","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NG-004_1-c1occc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(Cc1occc1)C=O","C(Cc1occc1)C=O"],"products_smiles": ["C(Cc1occc1)C=C(C=O)c1occc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)c1occc1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(Cc1occc1)C([O-])C(C=O)c1occc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1occc1)C(O)C(C=O)c1occc1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1occc1)C(O)[C-](C=O)c1occc1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(Cc1occc1)C=C(C=O)c1occc1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
